US07790709B2
Preparation of (E)-3-[3-(2-Dimethylamino-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide
According to the procedure of Example 1 (a), except substituting (E)-3-[3-(2-dimethylamino-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting methyl-(1-methyl-1H-indol-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (40 mg, 22%) was prepared as a pale yellow solid: 1H NMR (300 MHz, DMSO-d6) δ 9.98 (br s, 1H), 8.38-8.33 (m, 1H), 8.00-7.91 (m, 1H), 7.57-7.42 (m, 3H), 7.22-7.01 (m, 3H), 6.42-6.16 (m, 1H), 5.04-4.85 (m, 2H), 4.53-4.47 (m, 2H), 3.72-3.68 (m, 3H), 3.51-3.31 (m, 4H), 3.11-2.99 (m, 4H), 2.72-2.39 (m, 5H); MS (ESI) m/e 447 (M+H)+.

reactant | (E)-3-[3-(2-dimethylamino-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.CN(CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O)C
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-(1-methyl-1H-indol-2-ylmethyl)amine | CNCC=1N(C2=CC=CC=C2C1)C | C11H14N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-[3-(2-Dimethylamino-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide | 40 mg, 22% | CN(CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)N(CC=2N(C1=CC=CC=C1C2)C)C)=O)C | C25H30N6O2
